US07750034B2
Step C: 4-Methyl-N,N-diprop-2-yn-1-ylbenzenesulfonamide
A mixture of 5-[(4-methylphenyl)sulfonyl]-5,6-dihydro-4H-thieno[3,4-c]pyrrole (166 mg), hydrobromic acid (1.5 mL, 48% in water), propionic acid (0.26 mL) and phenol (182 mg) was heated at 100° C. for 8 h. The crude product obtained as such was passed through ion exchange resin (Strata-X-C) and eluted with methanol containing 10% ammonium hydroxide to yield the title compound.

reactant | 5-[(4-methylphenyl)sulfonyl]-5,6-dihydro-4H-thieno[3,4-c]pyrrole | 166 mg | CC1=CC=C(C=C1)S(=O)(=O)N1CC=2C(C1)=CSC2 | C13H13NO2S2
reactant | hydrobromic acid | 1.5 mL | Br | BrH
reactant | propionic acid | 0.26 mL | C(CC)(=O)O | C3H6O2
reactant | phenol | 182 mg | C1(=CC=CC=C1)O | C6H6O
product | 4-Methyl-N,N-diprop-2-yn-1-ylbenzenesulfonamide | CC1=CC=C(C=C1)S(=O)(=O)N(CC#C)CC#C | C13H13NO2S
